* CDL/LVS-oriented netlist
.SUBCKT oa31_x1 A1 A2 A3 B X VDD VSS
XOA31N30_PA0 pmid1 A1 VDD VDD pmos w=2u l=100n
XOA31N30_PB0 pmid2 A2 pmid1 VDD pmos w=2u l=100n
XOA31N30_PC0 oa31_or_n A3 pmid2 VDD pmos w=2u l=100n
XOA31N30_NA0 oa31_or_n A1 VSS VSS nmos w=1u l=100n
XOA31N30_NB0 oa31_or_n A2 VSS VSS nmos w=1u l=100n
XOA31N30_NC0 oa31_or_n A3 VSS VSS nmos w=1u l=100n
XOA31I30_P0 oa31_or oa31_or_n VDD VDD pmos w=2u l=100n
XOA31I30_N0 oa31_or oa31_or_n VSS VSS nmos w=1u l=100n
XOA31N20_PA0 oa31_and_n oa31_or VDD VDD pmos w=2u l=100n
XOA31N20_PB0 oa31_and_n B VDD VDD pmos w=2u l=100n
XOA31N20_NB0 oa31_and_n B nmid_OA31N20_0 VSS nmos w=1u l=100n
XOA31N20_NA0 nmid_OA31N20_0 oa31_or VSS VSS nmos w=1u l=100n
XOA31O0_P0 X oa31_and_n VDD VDD pmos w=2u l=100n
XOA31O0_N0 X oa31_and_n VSS VSS nmos w=1u l=100n
.ENDS oa31_x1
